US08791132B2
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.2 g, 6.0 mmol) in 6 mL DMF, was added sodium hydride (720 mg, 12 mmol) under nitrogen at 0° C. and stirred for 5 min. 2-(3,4-Dimethoxy-phenyl)-oxirane (2.16 g, 18 mmol) was diluted in DMF (2 mL) and added dropwise to the reaction mixture under nitrogen atmosphere. The reaction mixture was stirred at RT for 5 h. After consumption of starting material (TLC and LCMS), the reaction mixture was poured in ice-cold water and extracted with EtOAc (3×50 mL). The combined organic layer was washed with water (5×30 mL) and dried over anhydrous sodium sulfate, concentrated and purified by column chromatography (silica gel 100-200 mesh, eluent: 6% MeOH in DCM) to obtain 590 mg of 1-(3,4-dimethoxy-phenyl)-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 7.19 (m, 2H), 6.98 (d, 1H), 6.83 (m, 2H), 6.78 (s, 1H), 4.98 (t, 1H), 4.1 (m, 2H), 4.83 (s, 3H), 4.8 (s, 3H), 3.6 (dd, 2H), 2.68-2.88 (m, 3H), 2.53 (m, 1H), 2.5 (s, 3H), 2.4 (s, 3H). Separation by chiral HPLC provides enantiomers 66a and 66b.

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 6.0 mmol, 1.2 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | sodium hydride | 12 mmol, 720 mg | [H-].[Na+]
reactant | 2-(3,4-Dimethoxy-phenyl)-oxirane | 18 mmol, 2.16 g | COC=1C=C(C=CC1OC)C1OC1 | C10H12O3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(3,4-dimethoxy-phenyl)-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethanol | 590 mg | COC=1C=C(C=CC1OC)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)O | C23H28N2O3
